US08420684B2
Compound 168: 5-Benzo[1,3]dioxol-5-yl-1-(1H-benzoimidazol-5-yl)-4-(3-(2-oxo-pyrrolidin-1-yl)-propylimino)-imidazolidin-2-one
1H-Benzoimidazol-5-ylamine (1 mmol) and Benzo[1,3]dioxole-5-carbaldehyde (1 mmol) were combined in methanol (2 ml, dry). After 2 hours 2 ml of a solution of KOCN (KSCN) (2 mmol) and Pyridinehydrochloride (2 mmol) in MeOH is added was added. Finally 1-(3-Isocyano-propyl)-pyrrolidin-2-one (1 mmol) is added. The reaction was stirred at room temperature for 48 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 1H-Benzoimidazol-5-ylamine | 1 mmol | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | Benzo[1,3]dioxole-5-carbaldehyde | 1 mmol | O1COC2=C1C=CC(=C2)C=O | C8H6O3
reactant | KOCN | 2 mmol | O([K])C#N
reactant | Pyridinehydrochloride | 2 mmol | Cl.N1=CC=CC=C1
reactant | 1-(3-Isocyano-propyl)-pyrrolidin-2-one | 1 mmol | [N+](#[C-])CCCN1C(CCC1)=O | C8H12N2O
solvent | methanol | 2 ml | CO | CH4O
product | 5-Benzo[1,3]dioxol-5-yl-1-(1H-benzoimidazol-5-yl)-4-(3-(2-oxo-pyrrolidin-1-yl)-propylimino)-imidazolidin-2-one | O1COC2=C1C=CC(=C2)C2C(NC(N2C2=CC1=C(NC=N1)C=C2)=O)=NCCCN2C(CCC2)=O | C24H24N6O4
